US05167949
c) 2-(2,3-Dichlorophenoxy)acetamidine
8.0 g (0.031 mole) of 2-(2,3-dichlorophenoxy)actamidine hydrochloride are suspended in sodium hydroxide solution and extracted with chloroform. The organic extract is concentrated to dryness under reduced pressure. The solid residue is washed with hexane and dried; it is used in the next step without further purification. Yld: 6.7 g (98%), m.p. 104°-108° C.

reactant | 2-(2,3-dichlorophenoxy)actamidine hydrochloride | 0.031 mole, 8.0 g | Cl.ClC1=C(OCC(=N)N)C=CC=C1Cl
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-(2,3-Dichlorophenoxy)acetamidine | ClC1=C(OCC(=N)N)C=CC=C1Cl | C8H8Cl2N2O
